US07348337B2
Preparation of {1-[2-(7-Chloro-1H-pyrrolo[3,2-b]pyridin-3-yl)-2-oxo-acetyl]-piperidin-4-ylidene}-phenyl-acetonitrile
To a solution of (7-chloro-1H-pyrrolo[3,2-b]pyridin-3-yl)-oxo-acetic acid (1.5 g, 6.7 mmol) and phenylpiperidine-4-ylidene acetonitrile (1.3 g, 6.7 mmol) in DMF (50 mL) was added DEPBT (3.15 g, 10.5 mmol) and ethyl diisopropylamine (6.1 mL, 35 mmol). The solution was stirred 20 h, concentrated under vacuum and partitioned between 5% Na2CO3(aq) (80 mL) and EtOAc (5×100 mL). The combine organic layers were dried (MgSO4), filtered and concentrated. The residue was purified by Biotage Chromatography (SiO2, 30% EtOAc/Hex to 100% EtOAc) and by preparative HPLC to yield the title compound (300 mg, 0.74 mmol, 11%) as a yellow solid.

reactant | (7-chloro-1H-pyrrolo[3,2-b]pyridin-3-yl)-oxo-acetic acid | 6.7 mmol, 1.5 g | ClC1=C2C(=NC=C1)C(=CN2)C(C(=O)O)=O | C9H5ClN2O3
reactant | phenylpiperidine-4-ylidene acetonitrile | 6.7 mmol, 1.3 g | C1(=CC=CC=C1)C(C#N)=C1CCNCC1 | C13H14N2
reactant | DEPBT | 10.5 mmol, 3.15 g | CCOP(=O)(OCC)ON1C(=O)C2=C(C=CC=C2)N=N1 | C11H14N3O5P
reactant | ethyl diisopropylamine | 35 mmol, 6.1 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | {1-[2-(7-Chloro-1H-pyrrolo[3,2-b]pyridin-3-yl)-2-oxo-acetyl]-piperidin-4-ylidene}-phenyl-acetonitrile | 0.74 mmol, 300 mg, 11% | ClC1=C2C(=NC=C1)C(=CN2)C(C(=O)N2CCC(CC2)=C(C#N)C2=CC=CC=C2)=O | C22H17ClN4O2
